US05965738
Synthesis of 5-ethyl-2-imino-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazoline hydrochloride
To a solution of 5-ethyl-2-trifluoroacetylimino-3-[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazoline (700 mg) in 1,4-dioxane (10 ml) was added 12N hydrochloric acid (2ml), and they were stirred at room temperature for 18 hours. The solvent was distilled off from the reaction mixture. The residue so obtained was dispersed in water, collected by filtration and then dried, whereby 250 mg of the title compound was obtained.

reactant | 5-ethyl-2-trifluoroacetylimino-3-[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazoline | 700 mg | C(C)C1=NN(C(S1)=NC(C(F)(F)F)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H30F3N7OS
reactant | hydrochloric acid | 12N, 2ml | Cl | ClH
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-ethyl-2-imino-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazoline hydrochloride | 250 mg | Cl.C(C)C1=NN(C(S1)=N)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | InChI=1S/C18H17N7S.ClH/c1-2-16-22-25(18(19)26-16)11-12-7-9-13(10-8-12)14-5-3-4-6-15(14)17-20-23-24-21-17;/h3-10,19H,2,11H2,1H3,(H,20,21,23,24);1H
